US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinoline (6.70 g, 21.5 mmol) by reaction with m-CPBA (9.4 g) to provide 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)-propyl]-5-oxido-1H-imidazo[4,5-c]quinoline followed by reaction with p-toluenesulfonyl chloride (7.20 g, 37.8 mmol) and ammonium hydroxide solution (100 mL) to provide 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinolin-4-amine (3.9 g) as an off-white solid after recrystallization from toluene, mp 193-195° C.

reactant | 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-1H-imidazo[4,5-c]quinoline | 21.5 mmol, 6.70 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC1(OCCO1)C | C18H21N3O2
reactant | m-CPBA | 9.4 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 2-methyl-1-[3-(2-methyl-[1,3]dioxolan-2-yl)-propyl]-5-oxido-1H-imidazo[4,5-c]quinoline | CC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCCC1(OCCO1)C | C18H21N3O3
